US04125538
7-Chloro-4-(1-oxo-2-pyrrolidinoethyl)-5-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
To a solution of 7-chloro-4-(2-chloroacetyl)-5-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine (3.5 g, 10.4 millimoles) prepared as described in Example 4a, in 100 ml CH2Cl2, was added pyrrolidine (7.2 g, 104 millimoles). The resulting reaction solution was allowed to stir at room temperature for 18 hours, after which it was evaporated to dryness. The residue was dissolved in ether and the resulting ethereal solution was washed with two portions of H2O, with brine, and was dried over Na2SO4,filtered and evaporated to dryness. The residue so obtained was dissolved in CH3CH-diethyl ether and a hydrochloride salt was prepared. There was obtained a 81.8% yield of the title compound; mp 280°-282°.

reactant | 7-chloro-4-(2-chloroacetyl)-5-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine | 10.4 millimoles, 3.5 g | ClC=1C=CC2=C(C(N(CCO2)C(CCl)=O)C2=CC=CC=C2)C1 | C17H15Cl2NO2
reactant | pyrrolidine | 104 millimoles, 7.2 g | N1CCCC1 | C4H9N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 7-Chloro-4-(1-oxo-2-pyrrolidinoethyl)-5-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 81.8% yield | Cl.ClC=1C=CC2=C(C(N(CCO2)C(CN2CCCC2)=O)C2=CC=CC=C2)C1 | InChI=1S/C21H23ClN2O2.ClH/c22-17-8-9-19-18(14-17)21(16-6-2-1-3-7-16)24(12-13-26-19)20(25)15-23-10-4-5-11-23;/h1-3,6-9,14,21H,4-5,10-13,15H2;1H
